US04150139
To a solution of 0.23 g of 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine in 2 ml of acetic acid was added 0.2 ml of concentrated sulfuric acid and 0.5 ml of 30% hydrogen peroxide was added dropwise under stirring. After 20 hours, a solution of sodium sulfite was added and the solvent was evaporated off. To the residue was added a saturated aqueous solution of sodium hydrogen carbonate and the mixture was extracted with chloroform. The chloroform layer was washed with water and dried over Na2SO4. The solvent was then evaporated off and the residue was treated with ethanol. By the above procedure was obtained 3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazapine as crystals. m.p. 110°-111° C. Based on its infrared absorption spectrum and other data, this compound was identified with the compound obtained in Example 23.

reactant | 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | 0.23 g | CSC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3S
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 0.5 ml | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazapine | CS(=O)(=O)C1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3O2S
